US08455534B2
To a solution of 2,3-difluorobenzaldehyde (42 g, 0.296 mol) in H2SO4 (150 mL), was added NBS (63 g, 0.354 mol) in three portions over a period of 30 minutes at 60° C. The resulting mixture was heated for 6 hours at this temperature under N2. Work-up: the reaction mixture was poured into ice water. Petroleum ether (300 mL) was added, and the mixture was stirred for 10 minutes. The organic layer was separated, and the aqueous layer was extracted with more petroleum ether (300 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel (0-0.5% EtOAc in petroleum ether) to give 5-bromo-2,3-difluorobenzaldehyde (17.4 g). 1H NMR (300 MHz, CDCl3): δ 10.32 (s, 1H), 7.81-7.79 (m, 1H), 7.65-7.60 (m, 1H).

reactant | 2,3-difluorobenzaldehyde | 0.296 mol, 42 g | FC1=C(C=O)C=CC=C1F | C7H4F2O
reactant | NBS | 0.354 mol, 63 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | H2SO4 | 150 mL | OS(=O)(=O)O | H2O4S
product | 5-bromo-2,3-difluorobenzaldehyde | 17.4 g | BrC=1C=C(C(=C(C=O)C1)F)F | C7H3BrF2O
